### PR TITLE
[Merged by Bors] - feat(Data/Nat/Digits): dividing by `p^i`

### PR DESCRIPTION
**Pull request by mo271**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Digits.lean [hunk 1]
```diff
@@ -484,6 +484,36 @@ theorem base_pow_length_digits_le (b m : ℕ) (hb : 1 < b) :
...
+      (List.drop i digits) <| fun x hx ↦ w₁ x <| List.mem_of_mem_drop hx, ← List.drop_one,
+      List.drop_drop, add_comm]
+
+/-- Dividing `n` by `p^i` is like truncating the first `i` digits of `n` in base `p`.
+-/
+lemma self_div_pow_eq_ofDigits_drop (i n : ℕ) (h : 2 ≤ p):
+    n / p ^ i = ofDigits p ((p.digits n).drop i) := by
+convert ofDigits_div_pow_eq_ofDigits_drop i (zero_lt_of_lt h) (p.digits n)
+    (fun l hl ↦ digits_lt_base h hl)
+exact (ofDigits_digits p n).symm
```
Comment (ADedecker) [inline Mathlib/Data/Nat/Digits.lean:515]:
```suggestion
  convert ofDigits_div_pow_eq_ofDigits_drop i (zero_lt_of_lt h) (p.digits n)
    (fun l hl ↦ digits_lt_base h hl)
  exact (ofDigits_digits p n).symm
```

**Review by ADedecker — COMMENTED** [review]
Thanks!

bors d+
